US08071592B2
(a) 2-[(E)-2-Phenylethenyl]-5-(tetrahydro-2H-pyran-2-yloxy)-4(1H)-pyrimidinone
NaH (0.38 g, 9.5 mmol, 60% paraffin oil) was added slowly to a THF (20 mL) solution of ethyl (tetrahydro-2H-pyran-2-yloxy)acetate (prepared by treating ethyl hydroxyacetate with 3,4-dihydro-2H-pyran and TsOH) (1.0 g, 5.3 mmol) and dry ethyl formate (3.9 g, 53 mmol). The reaction mixture was stirred at room temperature for 15 min. and then heated at 65° C. for 45 min. The reaction mixture was concentrated to dryness to give a pale yellow solid. The solid was added to a MeOH/EtOH (20 mL/20 mL) solution of (2E)-3-phenyl-2-propenimidamide (0.78 g, 5.3 mmol), the subsequent mixture was heated at 80° C. for 4 h. The resulting material was poured into DCM (10 mL) containing silica gel (3 g) and evaporated. Purification by column chromatography (silica gel) using a MeOH/DCM gradient (0-10%) provided the desired product as a pale yellow solid (1 g, 63%).

reactant | NaH | 9.5 mmol, 0.38 g | [H-].[Na+]
reactant | ethyl (tetrahydro-2H-pyran-2-yloxy)acetate | 5.3 mmol, 1.0 g | O1C(CCCC1)OCC(=O)OCC | C9H16O4
reactant | ethyl formate | 53 mmol, 3.9 g | C(=O)OCC | C3H6O2
reactant | (2E)-3-phenyl-2-propenimidamide | 5.3 mmol, 0.78 g | C1(=CC=CC=C1)/C=C/C(N)=N | C9H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH EtOH | 20 mL | CO.CCO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[(E)-2-Phenylethenyl]-5-(tetrahydro-2H-pyran-2-yloxy)-4(1H)-pyrimidinone | 1 g, 63% | C1(=CC=CC=C1)/C=C/C=1NC=C(C(N1)=O)OC1OCCCC1 | C17H18N2O3
